US09233977B2
Step 2: tert-Butyl 2,4-dioxopiperidine-1-carboxylate
A solution of tert-butyl[3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropyl]carbamate (8.3 g, 26.3 mmol) in EtOAc (130 mL) was heated at reflux for 4 h. The solution was concentrated to afford the title compound which was used without further purification. LRMS (ESI) m/z 214.2 [(M+H)+; calcd for C10H15NO4: 214].

reactant | tert-butyl[3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropyl]carbamate | 26.3 mmol, 8.3 g | C(C)(C)(C)OC(NCCC(=O)C1C(OC(OC1=O)(C)C)=O)=O | C14H21NO7
solvent | EtOAc | 130 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 2,4-dioxopiperidine-1-carboxylate | O=C1N(CCC(C1)=O)C(=O)OC(C)(C)C | C10H15NO4
